US06541661B1
Step 1: 4-(2-Thiophenyl)-ethyl Benzoic Acid (69)
According to the published procedure (Gareau et al., Tet. Lett., 1994, 1837), under nitrogen atmosphere in a 50 mL round bottomed flask containing 4-vinyl-benzoic acid (1.0 g, 6.75 mmoles) in 10 mL of benzene (0.7 M) was added benzenethiol (797 μL, 7.76 mmoles) followed by VAZO™ (Aldrich Chemical Company, 495 mg, 2.02 mmoles). The mixture was stirred for 12 hours at reflux. The resulting solution was cooled at room temperature and the solvent was evaporated under vacuo. The solid was purified by trituration using hexane and dichloromethane to afford 1.94 g (85%) of white solid.

reactant | 4-vinyl-benzoic acid | 6.75 mmoles, 1.0 g | C(=C)C1=CC=C(C(=O)O)C=C1 | C9H8O2
reactant | benzenethiol | 7.76 mmoles, 797 μL | C1(=CC=CC=C1)S | C6H6S
reactant | VAZO | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | 0.7 M, 10 mL | C1=CC=CC=C1 | C6H6
product | 4-(2-Thiophenyl)-ethyl Benzoic Acid | 1.94 g, 85% | S1C(=CC=C1)C1=CC(=C(C(=O)O)C=C1)CC | C13H12O2S
